US07777047B2
N-[2-(1,8-dithia-3-azaspiro[4.5]dec-2-en-2-yl)-5-(2-methoxyethoxy)-1H-indol-7-yl]-N-methylpyridine-2-sulfonamide
To a solution of triphenylphosphine oxide (2.0 g) in acetonitrile (14 mL) was added dropwise trifluoromethanesulfonic anhydride (1.0 mL) at 0° C., and the mixture was stirred at 0° C. for 30 min. The obtained suspension was diluted with acetonitrile (36 mL), and a solution of N-{[4-(benzylthio)tetrahydro-2H-thiopyran-4-yl]methyl}-5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide (1.9 g) and thioanisole (0.70 mL) in acetonitrile (50 mL) was added. The reaction mixture was stirred at 0° C. for 2 hr, saturated aqueous sodium hydrogencarbonate solution was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography, and eluted with hexane-ethyl acetate (9:1-3:7, volume ratio) to give the title compound (0.26 g, yield 17%) as colorless crystals.

reactant | triphenylphosphine oxide | 2.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 1.0 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N-{[4-(benzylthio)tetrahydro-2H-thiopyran-4-yl]methyl}-5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide | 1.9 g | C(C1=CC=CC=C1)SC1(CCSCC1)CNC(=O)C=1NC2=C(C=C(C=C2C1)OCCOC)N(S(=O)(=O)C1=NC=CC=C1)C | C31H36N4O5S3
reactant | thioanisole | 0.70 mL | C1(=CC=CC=C1)SC | C7H8S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 14 mL | C(C)#N | C2H3N
solvent | acetonitrile | 36 mL | C(C)#N | C2H3N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N-[2-(1,8-dithia-3-azaspiro[4.5]dec-2-en-2-yl)-5-(2-methoxyethoxy)-1H-indol-7-yl]-N-methylpyridine-2-sulfonamide | 0.26 g, yield 17% | S1C(=NCC12CCSCC2)C=2NC1=C(C=C(C=C1C2)OCCOC)N(S(=O)(=O)C2=NC=CC=C2)C | C24H28N4O4S3
